US08710242B2
2-Chloro-N-cyclopropyl-4-[3-oxo-3-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}amino)prop-1-yn-1-yl]benzamide
2-Chloro-N-cyclopropyl-4-iodobenzamide (1.0 g, 3.11 mmol) and propiolic acid (222 mg, 3.11 mmol) were dissolved in N,N-dimethylformamide (1.2 ml) and cooled to 0° C. Then bis(triphenylphosphine)palladium(II) dichloride (43 mg, 0.06 mmol) and copper(1) iodide (23 mg, 0.12 mmol) were added and the mixture was cooled to −10° C. After addition of diisopropylamine (786 mg, 7.77 mmol), the mixture was warmed slowly to room temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate, washed successively with hydrochloric acid (2 M) and saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure. The residue was dissolved in N,N-dimethylformamide (1 ml) and admixed with 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (973 mg, 3.52 mmol) and 2,2,2-trifluoro-1-[3-trifluoromethylphenyl]ethanamine (780 mg, 3.20 mmol) and stirred at room temperature overnight. The reaction solution was admixed with hydrochloric acid (1 M) and extracted with ethyl acetate. The organic phase was washed with saturated sodium hydrogencarbonate solution and saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure. The residue was purified by means of silica gel chromatography with the eluent cyclohexane/ethyl acetate (EA) (0% EA to 40% EA).

reactant | 2-Chloro-N-cyclopropyl-4-iodobenzamide | 3.11 mmol, 1.0 g | ClC1=C(C(=O)NC2CC2)C=CC(=C1)I | C10H9ClINO
reactant | propiolic acid | 3.11 mmol, 222 mg | C(C#C)(=O)O | C3H2O2
reactant | diisopropylamine | 7.77 mmol, 786 mg | C(C)(C)NC(C)C | C6H15N
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 3.52 mmol, 973 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 2,2,2-trifluoro-1-[3-trifluoromethylphenyl]ethanamine | 3.20 mmol, 780 mg | FC(C(N)C1=CC(=CC=C1)C(F)(F)F)(F)F | C9H7F6N
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.06 mmol, 43 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(1) iodide | 0.12 mmol, 23 mg | [Cu]I
product | 2-Chloro-N-cyclopropyl-4-[3-oxo-3-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}amino)prop-1-yn-1-yl]benzamide | ClC1=C(C(=O)NC2CC2)C=CC(=C1)C#CC(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O | C22H15ClF6N2O2
